US06858638B2
5-Amino-3-phenethyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole can be obtained in the following way: a solution of 0.9 g of 5-amino-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole in a mixture of 50 ml of absolute ethanol and of 2 ml of water containing 100 mg of 10% palladium-on-charcoal is hydrogenated under a pressure of 1000 kPa at a temperature in the region of 25° C. for 21.5 hours. After filtration of the catalyst through Celite® under argon and washing with ethanol, the filtrate is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.83 g of crude 5-amino-3-phenethyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole is thus obtained in the form of a brown-colored oil (CI mass analysis: m/z 368 (M+H)+).

reactant | 5-amino-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 0.9 g | NC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C#CC1=CC=CC=C1 | C21H25N3OSi
reactant | water | 2 ml, 100 mg | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 5-amino-3-phenethyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 0.83 g | NC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)CCC1=CC=CC=C1 | C21H29N3OSi
